US04447260
To a solution of 1-methylcyclopropanecarboxylic acid (1.0 g) in tetrahydrofuran (50 ml), 3-trifluoromethyl-4-difluoromethoxyaniline (2.25 g) was added, and a solution of N,N'-dicyclohexylcarbodiimide (DCC) (2.2 g) in tetrahydrofuran was dropwise added while stirring. After several minutes, the by-produced N,N'-dicyclohexylurea (DCU) was eliminated by filtration. To the filtrate, acetic acid (2 ml) was added to decompose excessive DCC, followed by elimination of DCU. The resultant filtrate was extracted with ether, and the extract was washed with 1 N hydrochloric acid, sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The crude crystals (2.85 g) were recrystallized from ethanol to give N-(3-trifluoromethyl-4-difluoromethoxyphenyl)-1-methylcyclopropanecarboxamide (2.5 g). M.P., 39°-40° C.

reactant | 1-methylcyclopropanecarboxylic acid | 1.0 g | CC1(CC1)C(=O)O | C5H8O2
reactant | 3-trifluoromethyl-4-difluoromethoxyaniline | 2.25 g | FC(C=1C=C(N)C=CC1OC(F)F)(F)F | C8H6F5NO
reactant | N,N'-dicyclohexylcarbodiimide | 2.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(3-trifluoromethyl-4-difluoromethoxyphenyl)-1-methylcyclopropanecarboxamide | 2.5 g | FC(C=1C=C(C=CC1OC(F)F)NC(=O)C1(CC1)C)(F)F | C13H12F5NO2
